US07538233B2
4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-butyronitrile
Toluene-4-sulfonic acid 6-chloro-2-oxo-2H-1-benzopyran-4-yl ester (1.05 g, 3 mmol) is dissolved in THF (30 mL) under nitrogen and [P(o-tolyl)3]2PdCl2 (120 mg, 0.15 mmol) is added 3-cyanopropylzinc bromide (9 mL of a 0.5 M solution in THF, 4.5 mmol) is added and the resulting yellow solution is stirred at 60° C. for 2 hrs. Silica gel is added to the dark red reaction mixture, which is concentrated in vacuo and purified by flash column chromatography eluting with CH2Cl2 and gradually increasing polarity to 1% MeOH—CH2Cl2 to give a residue which is triturated with Et2O to give the title compound (0.54 g, 73%) as a cream solid. 1H NMR (DMSO-d6, 400 MHz) d 7.92 (1H, d, J=2 Hz), 7.68 (1H, dd, J=9, 2 Hz), 7.46 (1H, d, J=9 Hz), 6.47 (1H, s), 2.90 (2H, t, J=7 Hz), 2.63 (2H, t, J=7 Hz), 1.94 (2H, q, J=7 Hz). LCMS (MeCN—H2O, MeCN—H2O, Luna 3 m C18(2) 30×4.6mm; (ESI Pos.) calcd for C13H10ClNO2 m/z [M+H]=248; found [no mass ion detected].

reactant | Toluene-4-sulfonic acid 6-chloro-2-oxo-2H-1-benzopyran-4-yl ester | 3 mmol, 1.05 g | ClC=1C=CC2=C(C(=CC(O2)=O)OS(=O)(=O)C2=CC=C(C=C2)C)C1 | C16H11ClO5S
reactant | 3-cyanopropylzinc bromide | [Br-].C(#N)CCC[Zn+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-butyronitrile | 0.54 g, 73% | ClC=1C=CC2=C(C(=CC(O2)=O)CCCC#N)C1 | C13H10ClNO2
